US05250679
To a magnetically stirred solution of N-allyl-N-(2-hydroxy-5-iodobenzoyl)-2-hydroxy-3-phenylpropylamine (12.05 grams, 0.027 mol) in 100 mL THF was added triphenylphosphine (7.24 grams, 0.027 mol), and diethyl azodicarboxylate (4.7 grams, 0.027 mol). The mixture was heated to reflux overnight, allowed to cool to room temperature, and concentrated in vacuo. the resulting residue was dissolved in ethyl acetate (10 mL) and diluted with diethyl ether. The solids that form were filtered and the mother liquor was concentrated in vacuo. The yellow oil was purified by column chromatography (SiO2, using 15% diethyl ether/85% hexane to 1:1 diethyl ether/hexane as the eluting solvent gradient, Rf(product, 1:1 Et2O/heaxane)=0.64) to yield 4.31 grams (38%) of 2-allyl-4-benzyl-8-iodo-2,3,4,5-tetrahydro-1H-5-oxa-2-benzazepin-1-one. 1H NMR (CDCl3, dTMS) 8.10 (1H, d, 4JHH =2 Hz, C9-H), 7.69 (1H, dd, 4JHH =2 Hz, 3JHH =9 Hz, C7-H), 7.4-7.2 (5H, m, C6H5), 6.76 (1H, d, 3JHH =9 Hz, C6-H), 5.79 (1H, ddt, 3JHH =17 Hz, 3JHH =11 Hz, 3JHH =6 Hz, CH2CH=CH2), 5.2-5.0 (2H, m, CH=CH2), 5.71 (1H, m, CHOH), 4.31 (1H, ddt, 2JHH =15 Hz, 3JHH =6 Hz, 4JHH =1 Hz, NCHHCH=CH2), 4.00 (1H, ddt, 2JHH =15 Hz, 3JHH =6 Hz, 4JHH =1 Hz, NCHHCH=CH2), 3.34 (1H, dd, 2JHH =16 Hz, 3JHH =5.1 Hz, C3-H), 3.25 (1H, dd, 2JHH =16 Hz, 3JHH =4.2 Hz, C3-H), 3.09 (1H, dd, 2JHH =14 Hz, 3JHH =7 Hz, CHHPh), 2.73 (1H, dd, 2JHH =14 Hz, 3JHH =7 Hz, CHHPh). 13C NMR (CDCl3) 166.9, 152.7, 141.4, 139.6, 136.5, 132.6, 129.8, 129.1, 128.8, 127.0, 124.6, 118.4, 86.7, 84.7, 50.4, 48.9, 38.9. IR (NaCl, cm-1) 1641, 1589, 1463, 1430, 1264, 1217, 699.

reactant | N-allyl-N-(2-hydroxy-5-iodobenzoyl)-2-hydroxy-3-phenylpropylamine | 0.027 mol, 12.05 grams | C(C=C)N(C(C1=C(C=CC(=C1)I)O)=O)CC(CC1=CC=CC=C1)O | C19H20INO3
reactant | triphenylphosphine | 0.027 mol, 7.24 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.027 mol, 4.7 grams | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-allyl-4-benzyl-8-iodo-2,3,4,5-tetrahydro-1H-5-oxa-2-benzazepin-1-one | 4.31 grams, 38% | C(C=C)N1C(C2=C(OC(C1)CC1=CC=CC=C1)C=CC(=C2)I)=O | C19H18INO2
